US07737152B2
2-Chloro-6-(quinoline-6-oxy)-pyrazine, CJS 525(A)
Using Method DD with 2,6-dichloropyrazine (250 mg, 1.69 mmol) and 6-hydroxyquinoline (270 mg, 1.49 mmol), and purification by column chromatography (AcOEt cyclohexane, 1:1), the title compound was obtained (324 mg). Yield: 75%. 1H NMR (250 MHz, DMSO-d6) δ 7.56-7.59 (m, 1H, Harom 3), 7.70 (dd, 1H, Harom 7, Jm=2.6 Hz, Jo=9.1 Hz), 7.87 (d, 1H, Harom 5, J=2.4 Hz), 8.12 (d, 1H, Harom 8, J=9.0 Hz), 8.37 (d, 1H, Harom 4, J=8.1 Hz), 8.56 (s, 1H, HPz 5) 8.65 (s, 1H, HPz 3), 8.93 (dd, 1H, Harom 2, J=1.0 Hz, J=4.9 Hz). m/z: 258.0 [(M+H)+, calcd for C13H8ClN3O 257.0].

reactant | 2,6-dichloropyrazine | 1.69 mmol, 250 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 6-hydroxyquinoline | 1.49 mmol, 270 mg | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
solvent | AcOEt cyclohexane | CCOC(=O)C.C1CCCCC1
product | 2-Chloro-6-(quinoline-6-oxy)-pyrazine | Yield: 75% | ClC1=NC(=CN=C1)OC=1C=C2C=CC=NC2=CC1 | C13H8ClN3O
